US07265120B2
A solution of tert-butyl (2-{[1-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-oxo-2-phenylethyl]amino}-2-oxoethyl)carbamate (310 mg) in 10% hydrogen chloride in MeOH (3 ml) was stirred at 20-25° C. for 18 hours and the mixture was concentrated under reduced pressure to give a residue. The residue was dissolved in pyridine (1.5 ml) and heated at 80-85° C. for 10 hours. After evaporation of pyridine, the mixture was dissolved in CHCl3, washed with 1N HCl, sat. aq. NaHCO3 and brine, dried over MgSO4 and concentrated under reduced pressure to give syrup. The syrup was purified by column chromatography on silica gel eluting with a mixture of n-hexane and EtOAc (40:60 v/v) to give 6-(6-hydroxy-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone as a solid (65 mg).

reactant | tert-butyl (2-{[1-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-oxo-2-phenylethyl]amino}-2-oxoethyl)carbamate | 310 mg | C(C)(C)N1N=C(C=CC1=O)C(C(C1=CC=CC=C1)=O)NC(CNC(OC(C)(C)C)=O)=O | C22H28N4O5
solvent | hydrogen chloride | Cl | ClH
solvent | MeOH | 3 ml | CO | CH4O
solvent | pyridine | 1.5 ml | N1=CC=CC=C1 | C5H5N
product | 6-(6-hydroxy-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone | 65 mg | OC1=CN=C(C(=N1)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1 | C17H16N4O2
